US04999433
5-Chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole
60 g of 2-nitro-5-chloro-2'-hydroxy-3'-tert-butyl-5'-methylazobenzene (purity 86%), 40 g of xylene, 60 g of n-butylamine and 1 g of 1% Pt on activated carbon are put into a 300 ml hydrogenation reactor at room temperature under argon. Argon is then replaced by hydrogen. After the injection of 10 bar hydrogen, the hydrogenation is carried out at 35°-37° C. with intensive stirring. The heat released is removed by cooling. The end of the hydrogenation reaction is easily detectable by the hydrogen absorption ceasing after 2 mol equivalents of hydrogen, relative to the azobenzene starting product. The total hydrogenation time is about 1.5 hours.

reactant | 2-nitro-5-chloro-2'-hydroxy-3'-tert-butyl-5'-methylazobenzene | 60 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)N=NC1=C(C(=CC(=C1)C)C(C)(C)C)O | C17H18ClN3O3
reactant | n-butylamine | 60 g | C(CCC)N | C4H11N
reactant | hydrogen | [H][H] | H2
catalyst | Pt on activated carbon | 1 g | [Pt] | Pt
solvent | xylene | 40 g | C=1(C(=CC=CC1)C)C | C8H10
product | 5-Chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C)C(C)(C)C)O)C=C1 | C17H18ClN3O
